US08022223B2
Step D: 3-methylthieno[3,2-b]pyridin-7-ol:
A solution of Dowtherm A (7 mL) was heated in oil bath at 235° C. under nitrogen. 2,2-dimethyl-5-((4-methylthiophen-3-ylamino)methylene)-1,3-dioxane-4,6-dione (5.0 g, 19 mmol) was added in portions over a 20 minutes period. After the last portion was added, the solution stirred at 235° C. for another 5 minutes. The solution was removed from the oil bath and allowed to cool to room temperature. Upon cooling, the product precipitated out of solution. Diethyl ether was added and the solid was filtered and dried to give the title compound (3.2 g) with residual amounts of Dowtherm A remaining.

reactant | Dowtherm A | 7 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | 2,2-dimethyl-5-((4-methylthiophen-3-ylamino)methylene)-1,3-dioxane-4,6-dione | 19 mmol, 5.0 g | CC1(OC(C(C(O1)=O)=CNC1=CSC=C1C)=O)C | C12H13NO4S
product | 3-methylthieno[3,2-b]pyridin-7-ol | 3.2 g | CC1=CSC=2C1=NC=CC2O | C8H7NOS
